US07635715B2
Step A: Preparation of 2-(2-Iodophenyl)propanenitrile
2-(2-Iodophenyl)acetonitrile (3.0 g, 12 mmol) and sodium tert-butoxide (3.6 g, 37 mmol) were stirred in 20 mL of DMF, and MeI (0.77 mL, 12 mmol) was added dropwise. The reaction was then stirred for 3 hours. The solvent was removed under vacuum. The crude residue was purified by silica flash chromatography 0-15% EtOAc/hexanes.

reactant | 2-(2-Iodophenyl)acetonitrile | 12 mmol, 3.0 g | IC1=C(C=CC=C1)CC#N | C8H6IN
reactant | sodium tert-butoxide | 37 mmol, 3.6 g | CC(C)([O-])C.[Na+]
reactant | MeI | 12 mmol, 0.77 mL | CI | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(2-Iodophenyl)propanenitrile | IC1=C(C=CC=C1)C(C#N)C | C9H8IN
